US05290949
Synthesis of N-(3-isopropylphenyl)-N-(2-oxobutyl)-3-chlorophenylacetamide
200 g (1.48 mol) of m-isopropylaniline were dissolved in 600 ml of toluene, and 284 ml of diisopropylethylamine were then added thereto. The solution was heated to 45° C. under a nitrogen stream, and 245.8 g (1.63 mols) of bromomethyl ethyl ketone were added dropwise over 3 hours. After the temperature of the solution was returned to room temperature, 132 ml of pyridine were added thereto, and 308 g (1.63 mols) of m-chlorophenylacetyl chloride were then added dropwise thereto. The reaction mixture was poured into water, and the resultant organic layer was separated, washed with an aqueous saturated sodium bicarbonate solution and water in this order, and then dried over magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 492.8 g of a crude product in an oily state (yield: 93.0%).

reactant | m-isopropylaniline | 1.48 mol, 200 g | C(C)(C)C=1C=C(N)C=CC1 | C9H13N
reactant | diisopropylethylamine | 284 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bromomethyl ethyl ketone | 1.63 mols, 245.8 g | C(C)C(=O)CBr | C4H7BrO
reactant | m-chlorophenylacetyl chloride | 1.63 mols, 308 g | ClC=1C=C(C=CC1)CC(=O)Cl | C8H6Cl2O
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | pyridine | 132 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-isopropylphenyl)-N-(2-oxobutyl)-3-chlorophenylacetamide | 492.8 g, yield: 93.0% | C(C)(C)C=1C=C(C=CC1)N(C(CC1=CC(=CC=C1)Cl)=O)CC(CC)=O | C21H24ClNO2
